US06022822
(5) Synthesis of 3-aminopropyltin tris(methylethoxide)
0.57 g of sodium (0.025 mol) was treated with 80 ml of isopropylalcohol in a 200 ml eggplant type flask and the mixture was heated at 60° C. until sodium was completely dissolved. To this solution 50 ml of an isopropylalcohol solution containing the 3-(trichlorostannyl)propylamine (4.9 mmol), prepared in the aforementioned example (4), was added dropwise at a room temperature. Subsequently, the mixture was stirred while heating for 6 hours at 70° C. The resultant supernatant was separated and concentrated under reduced pressure to yield 2.4 g of the final product of 3-aminopropyltin tris(methylethoxide) (yield=59%).

reactant | sodium | 0.025 mol, 0.57 g | [Na] | Na
reactant | 3-(trichlorostannyl)propylamine | 4.9 mmol | Cl[Sn](CCCN)(Cl)Cl
reactant | isopropylalcohol | 50 ml | C(C)(C)O | C3H8O
reactant | isopropylalcohol | 80 ml | C(C)(C)O | C3H8O
product | 3-aminopropyltin tris(methylethoxide) | yield=59% | CC([O-])C.CC([O-])C.CC([O-])C.NCCC[Sn+3] | InChI=1S/C3H8N.3C3H7O.Sn/c1-2-3-4;3*1-3(2)4;/h1-4H2;3*3H,1-2H3;/q;3*-1;+3
